US08895582B2
To a solution of (S)-2-(tert-butoxycarbonylamino)-6-methoxy-6-oxohexanoic acid (23.5 g, 85 mmol) in anhydrous THF (100 mL) was added Et3N (14.2 mL, 102 mmol, 1.2 equiv.). The solution was cooled down to 0° C. and isobutyl chloroformate (12.2 mL, 93.5 mmol, 1.1 equiv.) was added dropwise. The solution was stirred for 30 min. The precipitate was filtered off. The filtrate was cooled down to 0° C. and a suspension of sodium borohydride (6.5 g, 170 mmol, 2 equiv.) in H2O (3 mL) was added in one portion. The reaction was stirred for 1 h, and quenched with saturated NH4Cl. THF was removed. The residue was dissolved into EtOAc (400 mL) and extracted with saturated NH4Cl twice. The organic layers were combined, dried and concentrated. The residue was purified on silica gel column (hexanes/EtOAc 1:1) to give (S)-methyl 5-(tert-butoxycarbonylamino)-6-hydroxyhexanoate (20 g, 90%) as a colorless oil. LRMS (M-Boc+H+) m/z 162.1.

reactant | (S)-2-(tert-butoxycarbonylamino)-6-methoxy-6-oxohexanoic acid | 85 mmol, 23.5 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)CCCC(=O)OC | C12H21NO6
reactant | Et3N | 102 mmol, 14.2 mL, 1.2 equiv. | CCN(CC)CC | C6H15N
reactant | isobutyl chloroformate | 93.5 mmol, 12.2 mL, 1.1 equiv. | ClC(=O)OCC(C)C | C5H9ClO2
reactant | sodium borohydride | 170 mmol, 6.5 g, 2 equiv. | [BH4-].[Na+]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | H2O | 3 mL | O | H2O
product | (S)-methyl 5-(tert-butoxycarbonylamino)-6-hydroxyhexanoate | 20 g, 90% | C(C)(C)(C)OC(=O)N[C@@H](CCCC(=O)OC)CO | C12H23NO5
